US03931181
30 G. of 4-cyano-3,5-dimethoxy-benzoic acid methyl ester and 1500 ml. of methanol and 150 ml. of 1N hydrochloric acid is hydrogenated in the presence of 10 g. of palladium-on carbon 10% at room temperature and under atmospheric pressure. In about 5 hours, 2 moles of hydrogen are taken up. The solution is freed of the catalyst by filtration, evaporated to dryness and the residue is taken up in a little water. The solution is thereafter filtered, saturated with solid potassium carbonate and shaken with benzene. From the shaken benzene mixture, is obtained 4-(aminomethyl)-3,5-dimethoxy-benzoic acid methyl ester, which after recrystallization from high boiling petroleum ether has a m.p. of 81°-83°.

reactant | 4-cyano-3,5-dimethoxy-benzoic acid methyl ester | COC(C1=CC(=C(C(=C1)OC)C#N)OC)=O | C11H11NO4
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | hydrogen | 2 moles | [H][H] | H2
catalyst | palladium-on carbon | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 4-(aminomethyl)-3,5-dimethoxy-benzoic acid methyl ester | COC(C1=CC(=C(C(=C1)OC)CN)OC)=O | C11H15NO4
